US08957203B2
A solution of 2,7-dimethoxyquinazolin-4-ol (155 mg, 0.752 mmol) in POCl3 (2 ml, 21.46 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in hexanes. The product fractions were collected and the solvent removed under vacuum to give 4-chloro-2,7-dimethoxyquinazoline (61 mg, 36% yield). MS: MS m/z 225.1 (M++1).

reactant | 2,7-dimethoxyquinazolin-4-ol | 0.752 mmol, 155 mg | COC1=NC2=CC(=CC=C2C(=N1)O)OC | C10H10N2O3
reactant | POCl3 | 21.46 mmol, 2 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,7-dimethoxyquinazoline | 61 mg, 36% yield | ClC1=NC(=NC2=CC(=CC=C12)OC)OC | C10H9ClN2O2
